US07960562B2
A mixture of 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonamide (hereinafter referred to as starting compound B, 500 mg), acetic anhydride (5 mL), pyridine (10 mL) and DMF (20 mL) was heated with stirring at 55° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate and washed with aqueous saturated sodium hydrogencarbonate solution and water successively. The solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1), and recrystallized from ethyl acetate/n-hexane to obtain N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)acetamide (58 mg).

reactant | 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonamide | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)N)=C1NC2=C(N1)C=CC=C2)=O | C22H15F2N3O4S
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)acetamide | 58 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)=O)=C1NC2=C(N1)C=CC=C2)=O | C24H17F2N3O5S
